US04309443
N-{3-(4-{2-Carbomethoxy-1-methylethenyl}phenyl)-1, 1-dimethylpropyl}-2-hydroxy-2-phenylethanamine
This was prepared in an identical manner to the compound described in Example 13 using phenylglyoxal monohydrate (1.34 g) and 3-{4-(2-carbomethoxy-1-methylethenyl)phenyl}-1, 1-dimethylpropanamine (2.61 g). The title compound (2.17 g) m.p. 98°-102° C. (benzene-hexane) was obtained after chromatography on Kieselgel 60 eluting with 1% methanolchloroform. τ(CDCl3) 8.85 (6H, s), 8.1-8.7 (2H, m), 6.8-7.8 (9H, m), 6.2 (3H, s), 5.3 (1H, dd), 3.82 (1H broad), 2.65 (9H, m).

reactant | phenylglyoxal monohydrate | 1.34 g | O.C1(=CC=CC=C1)C(=O)C=O
reactant | 3-{4-(2-carbomethoxy-1-methylethenyl)phenyl}-1, 1-dimethylpropanamine | 2.61 g | C(=O)(OC)C=C(C)C1=CC=C(C=C1)CCC(N)(C)C | C16H23NO2
product | N-{3-(4-{2-Carbomethoxy-1-methylethenyl}phenyl)-1, 1-dimethylpropyl}-2-hydroxy-2-phenylethanamine | 2.17 g | C(=O)(OC)C=C(C)C1=CC=C(C=C1)CCC(C)(C)NCC(C1=CC=CC=C1)O | C24H31NO3
